US05446065
1. 1,3-Bis-(2-aminoethyl)-benzene
A mixture of 25.0 g (0.16 mmol) meta-xylylene dicyanide, 300 ml ethanol and50 ml conc. NH3 is hydrogenated in the presence of Raney nickel for 5 hrs. at 100° C. and 150 bar. One then filters off with suction and evaporates. The residue is dissolved in ether, the solution is clarified with active carbon and finally mixed with HCl-containing ether, whereby the dihydrochloride precipitates out. One filters off with suction, washeswith ether and dries. Yield 23.2 g (61% of theory) of dihydrochloride with the m.p. 282°-286° C.

reactant | meta-xylylene dicyanide | 0.16 mmol, 25.0 g | C1(=CC(=CC=C1)CC#N)CC#N | C10H8N2
reactant | NH3 | N | H3N
catalyst | Raney nickel | [Ni] | Ni
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 1,3-Bis-(2-aminoethyl)-benzene | NCCC1=CC(=CC=C1)CCN | C10H16N2
